Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___
 
Chief Complaint:
Abdominal pain, nausea, projectile emesis
 
Major Surgical or Invasive Procedure:
Small Bowel Singe Balloon Enteroscopy (___)

 
History of Present Illness:
Ms. ___ is a ___ yo female with PMHx DM II, glaucoma, 
depression and previous hospitalizations at ___ for 
intussusception s/p bowel resection in ___ who presented 
to ___ with nausea, vomiting and abdominal pain and was 
subsequently found to have 3 area of jejunal intussusception on 
CT. Now being transferred for further work-up and management. 

Patient presented to ___ with acute onset of emesis that 
started around 3 hours prior to presentation. She states that 
she was in his usual state of health when she felt intense LLQ 
pain (dull, achy, ___ and burping. She says that her burping 
tasted both acidic and sulfurous, and says she was also passing 
feculent material through her mouth.  She also endorses one 
episode of scant, loose stool. She then progressed to projectile 
vomiting, ~3 episodes.

Of note, she has had these episodes several times before, 
starting around ___ years ago. She says that she has had 3 
episodes of intense abdominal pain, nausea, emesis (sometimes 
with diarrhea and sometimes without) that she did not seek 
medical attention for. She says that she usually stops eating 
for ~ 2 days and these episodes abate. She has been twice at 
___ for abdominal pain and has been diagnosed with 
diverticulitis twice (once requiring a ___ hospital stay ! ___ 
year ago, with abx management). She had an episode that she says 
in similar to all her previous in ___ of this year and was 
found to have a small intestinal intussusception on CT in 
___ (record currently not available). She underwent small 
bowel resection without issue.

In ___, initial vitals were:  98.3 HR 79 RR 18 BP 120/57 
Sa 99% on RA

Labs notable for WBC 9.8, H&H 14.2 and 42.9. Plts 269
 Na 139, K 3.9, Cl 105. AST 14 ALT 24 ALP 81 TP 7.5 Alb 4.3 
Lipase 83 
Imaging notable for  "Redemonstration of a jejunojejunal 
intussusception in at least 3 areas. No dilation proximally to 
suggest obstruction, although contrast does not pass the second 
and third intussusception points."
Decision was made to admit for workup and management of 
intussusception.

On the floor, patient is in no acute distress. She endorses dull 
abdominal pain in the LLQ. Also reports that she is not passing 
gas. Otherwise ROS negative.

 
Past Medical History:
PAST MEDICAL HISTORY:  
Type II Diabetes with microalbuminuria
Glaucoma
Depression
HLD
HTN
Diverticulitis

Past Surgical History:
ex-lap with bowel resection ___, ___,
prolapsed bladder sling, tubal ligation, tonsillectomy, ectopic
pregnancy s/p exploration
 
Social History:
___
Family History:
paternal grandmother died of colon cancer
 
Physical Exam:
ADMISSION PHYSICAL
=============
Vitals: 97.7 BP 108/60 HR 68 RR 20 97%Ra 
General: Alert, oriented, no acute distress. Pleasant. 
Conversational.  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft. +BS. Tenderness to deep palpation in LLQ. 
Non-distended, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin:  Purple linear surgical scar ~5 cm vertical over abdomen. 
Well-healed. No signs of infection.

DISCHARGE PHYSICAL EXAM
=================
Physical exam:
VS:  98.5 110/66 HR 62 RR 18 99%ra 
GENERAL: NAD, alert, interactive. Conversational.
HEENT: NC/AT, sclerae anicteric, MMM  
LUNGS: Clear to auscultation bilaterally, otherwise no w/r/r  
HEART: NRRR. Normal S1 and S2
ABDOMEN: NABS, soft/ND.  Slight distension. Slight TTP in LLQ. 
Active BS
EXTREMITIES: WWP  
NEURO: awake, A&Ox3  

 
Pertinent Results:
LABS ON ADMISSION
=============
___ 01:00AM BLOOD WBC-7.1 RBC-4.15 Hgb-12.1 Hct-38.0 MCV-92 
MCH-29.2 MCHC-31.8* RDW-12.6 RDWSD-41.9 Plt ___
___ 01:00AM BLOOD Neuts-55.7 ___ Monos-8.3 Eos-3.2 
Baso-0.3 Im ___ AbsNeut-3.95 AbsLymp-2.28 AbsMono-0.59 
AbsEos-0.23 AbsBaso-0.02
___ 01:00AM BLOOD ___ PTT-31.0 ___
___ 01:00AM BLOOD Glucose-105* UreaN-13 Creat-0.6 Na-138 
K-3.6 Cl-104 HCO3-26 AnGap-12
___ 01:00AM BLOOD ALT-14 AST-13 AlkPhos-60 TotBili-0.5
___ 09:25AM BLOOD Albumin-3.8 Calcium-8.1* Phos-3.3 Mg-1.8

NOTABLE LABS DURING HOSPITAL STAY
========================
___ 07:40AM BLOOD IgA-165
___ 06:33PM BLOOD HIV Ab-Negative
___ 07:40AM BLOOD tTG-IgA-7

LABS ON DISCHARGE
=============
___ 08:41AM BLOOD WBC-6.8 RBC-4.67 Hgb-13.5 Hct-42.2 MCV-90 
MCH-28.9 MCHC-32.0 RDW-12.4 RDWSD-41.0 Plt ___
___ 08:41AM BLOOD Plt ___
___ 08:41AM BLOOD Glucose-250* UreaN-7 Creat-0.8 Na-139 
K-3.5 Cl-101 HCO3-29 AnGap-13
___ 08:41AM BLOOD Calcium-9.2 Phos-3.7 Mg-1.8

MICROBIOLOGY & PATHOLOGY
===================
Jejunal wall Biopsy (___) 1A. Random small bowel:Small bowel 
mucosa, unremarkable. 

IMAGING & PROCEDURES
================
CT Abdomen (___)
 Outside report. Images uploaded in life images. Re-read 
requested.

Small intestine Enteroscopy (___)
Impression:
Normal mucosa in the whole esophagus
Normal mucosa in the whole stomach
Normal mucosa in the whole duodenum
Normal mucosa in the whole jejunum (biopsy)
Otherwise normal small bowel enteroscopy to mid jejunum and 
distal jejunum

 
Brief Hospital Course:
Ms. ___ is a very pleasant ___ year old female who presented 
to OSH with projectile emesis and abdominal pain and was 
subsequently found to have recurrent jejunojejunal 
intussusception in at least ___bdomen. During her 
hospital course the following issues were addressed:

# Intussusception. Patient presented to ___ with acute 
onset of abdominal pain, nausea, and burping/belching of foul 
smelling, sulfurous air that tasted like fecal matter. This 
progressed to several episodes of projectile emesis and ___ 
loose bowel movements. CT scan with read "compared to ___ CT, 
redemonstration of a jejunojenunal intussusception in at least 3 
areas. No dilation proximal intussusception to suggest 
obstruction but no contrast gets past ___ intussusception 
points. Sigmoid diverticulosis, no diverticulitis." On arrival 
to ___ she reported some abdominal discomfort but no further 
emesis. On night of admission she was not passing gas, but began 
passing flatus on hospital day 2 and tolerated clears for the 
remainder of her hospital stay.  Patient was seen by both GI and 
surgery. GI did a single balloon enteroscopy on ___ and found 
no mucosal abnormality, no tumor, no evidence of obstruction and 
no other abnormality that may have caused a lead point. Biopsies 
were taken of the jejunum and were unremarkable. Patient had 
previous small bowel resection in ___ for intussusception, 
with op report noting numerous adhesions and a firm, atretic, 
scarred down area that was resected. The etiology of this 
episode remains unclear. Still possibly partial SBO second to 
her known adhesions, undetected malignancy or mass serving as a 
lead point (small bowel lymphoma, mets, intestinal polyp, 
intestinal lipoma small bowel hemangioma), or lymphoid 
hyperplasia. HIB Ab negative, TTG negative, no evidence of bowel 
wall inflammation (IBD and celiac's disease can sometimes 
present with associated intussusception). Patient was discharged 
with no evidence of current obstruction, tolerating a solid soft 
diet.

# Diarrhea. On ___ patient began complaining of watery, frothy 
stools and had 7 BMs that day. C. diff was obtained which was 
negative and diarrhea resolved after she began a diet of soft 
solids. Thought to be due to her clear diet.

CHRONIC ISSUES
===========
# DM II. Insulin sliding scale. Hold home metformin and 
lirglutide
# HLD. Continue home simvastatin 
# HTN. Continue home losartan 
# Depression. Continue home citalopram when patient is able to 
tolerate PO meds. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Citalopram 40 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. MetFORMIN XR (Glucophage XR) 750 mg PO BID 
5. Losartan Potassium 25 mg PO DAILY 
6. liraglutide 3 mg/0.5 mL (18 mg/3 mL) subcutaneous DAILY 

 
Discharge Medications:
1.  Citalopram 40 mg PO DAILY  
2.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
3.  liraglutide 3 mg/0.5 mL (18 mg/3 mL) subcutaneous DAILY  
4.  Losartan Potassium 25 mg PO DAILY  
5.  MetFORMIN XR (Glucophage XR) 750 mg PO BID  
6.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary 
========
Intussusception

Secondary
=========
Type II Diabetes 
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you here at ___. You came from an 
outside hospital with abdominal pain, nausea and vomiting and 
were subsequently found to have an intussusception along a 
portion of your small intestine. We had our gastroenterologists 
and our surgeons follow your case, and you were taken for a 
single balloon enteroscopy. This showed healthy bowel, with no 
evidence of obstruction at the time of the scoping procedure. 
Biopsies were taken which showed normal bowel. You had tests 
run, which were negative for HIV and celiac's disease. You 
showed no evidence of obstruction while in the hospital, and 
tolerated a diet of clear liquids well. You did have some 
diarrhea on your last day of hospital stay. A sample of your 
stool was sent to test for clostridium difficile, a bug that can 
cause diarrhea in the hospital. This was negative.

Please take all of your medications as prescribed. 

Best wishes, 

Your ___ Care Team
 
Followup Instructions:
___